US08877774B2
Step 3. 3-(1,3-Dioxolan-2-yl)propyl 4-((3-(amino(phenyl)methyl)phenoxy)methyl)-benzoate hydrochloride
Hydrogen chloride in dioxan (4.0 M, 6 mL, 24 mmol) was added to 3-(1,3-dioxolan-2-yl)propyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)-methyl)benzoate (0.756 g, 1.38 mmol), and the resultant solution was stirred at ambient temperature for 2 hours. The solvent was evaporated at reduced pressure to afford the title compound (0.750 g, 100%).

reactant | Hydrogen chloride | Cl | ClH
reactant | dioxan | 24 mmol, 4.0 M, 6 mL | O1CCOCC1 | C4H8O2
reactant | 3-(1,3-dioxolan-2-yl)propyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)-methyl)benzoate | 1.38 mmol, 0.756 g | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | C32H37NO7
product | 3-(1,3-Dioxolan-2-yl)propyl 4-((3-(amino(phenyl)methyl)phenoxy)methyl)-benzoate hydrochloride | 0.750 g, 100% | Cl.NC(C=1C=C(OCC2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | InChI=1S/C27H29NO5.ClH/c28-26(21-6-2-1-3-7-21)23-8-4-9-24(18-23)33-19-20-11-13-22(14-12-20)27(29)32-15-5-10-25-30-16-17-31-25;/h1-4,6-9,11-14,18,25-26H,5,10,15-17,19,28H2;1H
